US07410981B2
2-(Methylamino)ethyl 3,4-difluorobenzoate hydrochloride
To a mixture of tert-butyl 2-hydroxyethyl(methyl)carbamate (1.75 g) obtained in Reference Example 1 and ethyl acetate (10 mL) were added 3,4-difluorobenzoyl chloride (1.77 g) and pyridine (0.97 mL). After stirring at room temperature for 3 days, ethyl acetate (80 mL) was added to the reaction mixture. The mixture was washed with water (20 mL), a saturated aqueous sodium hydrogen carbonate solution (20 mL) and water (20 mL), and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, a 4N hydrogen chloride-ethyl acetate solution (10 mL) was added to the residue. After stirring at room temperature for 4 hrs, the mixture was concentrated under reduced pressure. The residue was washed with ethyl acetate (15 mL), and dried under reduced pressure at 60° C. to give the title compound (2.05 g) as a white solid.

reactant | tert-butyl 2-hydroxyethyl(methyl)carbamate | 1.75 g | OCCN(C(OC(C)(C)C)=O)C | C8H17NO3
reactant | 3,4-difluorobenzoyl chloride | 1.77 g | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
reactant | pyridine | 0.97 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-(Methylamino)ethyl 3,4-difluorobenzoate hydrochloride | 2.05 g | Cl.FC=1C=C(C(=O)OCCNC)C=CC1F | InChI=1S/C10H11F2NO2.ClH/c1-13-4-5-15-10(14)7-2-3-8(11)9(12)6-7;/h2-3,6,13H,4-5H2,1H3;1H
